US07732477B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzofuran-2-carboxamide
2.0 ml (4 mmol) of a 2 M tin(II) chloride solution in DMF are added to N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide (135 mg, 0.32 mmol), and the mixture is stirred at RT for 18 h. The crude product is taken up in methanol and shaken together with acidic ion exchange resin (Dowex WX2-200) for about 20 min. The loaded ion exchanger is washed three times with in each case 30 ml of methanol, then with water/methanol 8:2, again with methanol, with dichloromethane and finally again with methanol. The product is eluted using methanol/triethylamine 95:5. The solvent is removed under reduced pressure using a rotary evaporator, and 20 ml of 1N aqueous sodium hydroxide solution are added to the crude mixture. The aqueous phase is extracted six times with in each case 20 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and the solvent is removed under reduced pressure using a rotary evaporator. 100.7 mg (82% of theory) of the title compound are isolated. The analytical data correspond to those of the enantiomeric compound from example 32.

reactant | tin(II) chloride | 2 M | [Sn](Cl)Cl
reactant | N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide | 0.32 mmol, 135 mg | N12C[C@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C16H17N3O4
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzofuran-2-carboxamide | N12C[C@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)N | C16H19N3O2
